US07435815B2
2-[(4-tert-Butyl-benzenesulfonyl)-p-tolyl-amino]-N-methyl-N-pyridin-3-ylmethyl-acetamide
prepared by reaction of [(4-tert-butyl-benzenesulfonyl)-p-tolyl-amino]-acetic acid with methyl-pyridin-3-ylmethyl-amine

reactant | [(4-tert-butyl-benzenesulfonyl)-p-tolyl-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C1=CC=C(C=C1)C)CC(=O)O | C19H23NO4S
reactant | methyl-pyridin-3-ylmethyl-amine | CNCC=1C=NC=CC1 | C7H10N2
product | 2-[(4-tert-Butyl-benzenesulfonyl)-p-tolyl-amino]-N-methyl-N-pyridin-3-ylmethyl-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(CC=1C=NC=CC1)C)C1=CC=C(C=C1)C | C26H31N3O3S
